* C:\Users\tofutaco\Documents\ELECTENG209\Project Code\electeng209\LTSpice\pcb_sim.asc
V1 Vac 0 SINE(0 19.7979797979797979 500 0 0 0)
L1 Vac N003 3.7m
R1 N003 Isens 20
R2 Isens 0 0.2
R3 Vac Vsens 100k
R4 Vsens 0 8.2k
XU1 N013 N005 3v3 0 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N006 N005 180k
R6 N005 0 20k
R7 N013 Isens 20k
R8 1v65 N013 180k
XU2 N002 3v3 MP_01 0 N002 LT3009-3.3
C1 N002 0 100µ
C2 3v3 0 100µ
R9 N002 N001 10
D1 Vac N001 D
R10 3v3 N004 100k
R11 N004 0 100k
XU3 N014 N007 3v3 0 N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R12 N008 N007 100k
R13 N007 0 100k
R14 N014 Vsens 92.4k
R15 1v65 N014 100k
D2 Vsens P001 D
D3 0 P001 D
D4 Isens P002 D
D5 0 P002 D
XU4 N004 1v65 3v3 0 1v65 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU5 1v65 N010 3v3 0 Iadc level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C3 Iadc N010 1.8n
R16 N009 N010 10k
R17 Iadc N009 3.3k
C4 N009 1v65 15n
R18 N006 N009 3.3k
XU6 1v65 N012 3v3 0 Vadc level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C5 Vadc N012 1.8n
R19 N011 N012 10k
R20 Vadc N011 3.3k
C6 N011 1v65 15n
R21 N008 N011 3.3k
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
* Load
.tran 0 100m 0 50u uic
* Power Circuit with AC Source & Load
* Current Measurement\nAmplification (x9.45) & Level Shift (1.65V)
* AC (22V-16V) to Regulated 3.3 V DC
* Voltage Measurement - Level Shift (1.65V)
* Filtering (2nd order)
* Filtering (2nd order)
.lib LT3009.lib
.lib UniversalOpamps2.sub
.backanno
.end
